US09029356B2
Preparation of tert-butyl 4-(4-methylpiperazin-1-yl)-2-[(1-methylpiperidin-4-yl)(trifluoroacetyl)amino]benzoate
tert-butyl 4-(4-methylpiperazin-1-yl)-2-[(1-methylpiperidin-4-yl)amino]benzoate (1.02 g, 2.625 mmol) was dissolved in dry dichloromethane (10 mL) under nitrogen atmosphere and the solution was cooled to 0° C. Triethylamine (0.548 mL, 3.938 mmol, 1.5 eq) was added, followed by trifluoroacetic anhydride (0.445 mL, 3.15 mmol, 1.2 eq) and the mixture was stirred at 0° C. for 2 hours. It was then diluted with dichloromethane and washed twice with water. The aqueous phase was back-extracted with dichloromethane. The combined organic layers were dried over Na2SO4 and concentrated under reduced pressure to give 1.18 g of crude product (93% yield), which was used in the following step without further purification.

reactant | tert-butyl 4-(4-methylpiperazin-1-yl)-2-[(1-methylpiperidin-4-yl)amino]benzoate | 2.625 mmol, 1.02 g | CN1CCN(CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC1CCN(CC1)C | C22H36N4O2
reactant | Triethylamine | 3.938 mmol, 0.548 mL, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 3.15 mmol, 0.445 mL, 1.2 eq | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(4-methylpiperazin-1-yl)-2-[(1-methylpiperidin-4-yl)(trifluoroacetyl)amino]benzoate | 1.18 g, 93% yield | CN1CCN(CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)N(C(C(F)(F)F)=O)C1CCN(CC1)C | C24H35F3N4O3
